US04337256
Forty-four (44) grams of 1-(4-bromobenzoylamino)-2-(2-methylphenyl)ethane was heated with stirring at 140° C. for 4 hours together with 300 ml of xylene, 100 ml of phosphorus oxychloride and 100 g of phosphorus pentoxide. The reaction mixture was decanted to remove the solvent. The residue was carefully decomposed with ice water, and made weakly alkaline with an aqueous solution of sodium hydroxide. The crystals precipitated were extracted with benzene, and dried, followed by distilling off the solvent. Recrystallization of the residue from hexane afforded 35 g of 1-(4-bromophenyl)-5-methyl-3,4-dihydroisoquinoline as colorless needles having a melting point of 60.0° to 61.5° C.

reactant | 1-(4-bromobenzoylamino)-2-(2-methylphenyl)ethane | BrC1=CC=C(C(=O)NCCC2=C(C=CC=C2)C)C=C1 | C16H16BrNO
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentoxide | 100 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-bromophenyl)-5-methyl-3,4-dihydroisoquinoline | 35 g | BrC1=CC=C(C=C1)C1=NCCC2=C(C=CC=C12)C | C16H14BrN
